Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Rigors
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is an ___ year old female with a PMH significant 
for recurrent UTI, C.diff, CAD s/p PCI, HTN, HLD, and PAF 
admitted for fever and chills. The patient was accompanying her 
husband to their ___ office today when she developed shaking 
chills. At her PCPs office, she was ill appearing, and so was 
sent into the ___ ED for further evaluation. She denies any 
fevers or sweats, cough, SOB, n/v/d, abd pain, fatigue, or 
CP/SOB.
.
In the ___ ED, initial VS 103.4 103 165/59 20 100%RA.  The 
patient had a UA that demonstrated bacteria but ___ WBC and a 
negative CXR. She received levofloxacin for presumed UTI, and 
was then admitted to Medicine for further management.
.
Of note, the patient reports that she has a long history of 
intermitent shaking chills, usually lasting ___ minutes. She 
states that these episodes have not occurred in approximately ___ 
years, although has had ___ lifetime episodes.
.  
Currently, the patient is resting comfortably without compaints.
 
Past Medical History:
- ___. ___ colitis
- Coronary artery disease
  *history of stent placements x3 (LCx and RCA per OMR cath 
report ___
  *negative stress test ___
- HTN
- HLD
- PAF
- per chart, h/o scarlet and rheumatic fever
-  h/o biliary stricture requiring "tube in her liver"
-  per chart, h/o of frequent UTIs, including Cipro-resistant E.
coli urosepsis in ___ patient cannot recall prior UTIs
- ___ DVT? - per ___ records, ___ DVT at unknown time.  DVT study 
bilat ___ negative ___
-  Total knee replacements, right (1) and left (2)(both prior to
___
-  Hip replacement, ___
-  Macular degeneration, h/o ophtho operations
- Osteopenia
- GERD
- Migranes
- Overactive bladder
- Cholecystectomy
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
VS: 97.8 118/64 67 20 97%RA
Gen: NAD
HEENT: MMM, OP clear without lesions, exudate, or erythema. Neck 
supple without LAD. 
CV: Nl S1+S2, III/VI systolic crescendo-decrescendo murmur 
throughout the precordium, II/VI diastolic murmur at base. 
Pulm: CTAB
Abd: S/NT/ND +bs
Ext: No c/c/e.
Neuro: AOx3, CN II-XII intact.
 
Pertinent Results:
CXR: Subtle linear opacity projecting over the heart border on 
the 
lateral view, not well substantiated on the frontal view, but 
could represent mild lingular atelectasis or consolidation 

___ 12:30PM BLOOD WBC-10.7# RBC-3.65* Hgb-9.8* Hct-30.9* 
MCV-85# MCH-27.0# MCHC-31.8 RDW-17.2* Plt ___
___ 08:15AM BLOOD WBC-4.7 RBC-3.57* Hgb-9.7* Hct-31.0* 
MCV-87 MCH-27.3 MCHC-31.5 RDW-16.9* Plt ___
___ 07:50AM BLOOD ___ PTT-27.4 ___
___ 07:50AM BLOOD Glucose-147* UreaN-17 Creat-0.9 Na-143 
K-3.7 Cl-106 HCO3-27 AnGap-14
.

___ 12:00 pm URINE     Site: CLEAN CATCH

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
      KLEBSIELLA PNEUMONIAE.    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          KLEBSIELLA PNEUMONIAE
                             |          |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S        4 S
CEFAZOLIN-------------   <=4 S      <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
NITROFURANTOIN--------  <=16 S       64 I
PIPERACILLIN/TAZO-----              <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S
.
___ 12:30 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Piperacillin/Tazobactam sensitivity testing confirmed 
by ___
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     8 S
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
.
Cdiff negative x 2.
 
Brief Hospital Course:
Urosepsis: Ms ___ was found to have a pan-sensitive E Coli 
growing in her blood and urine along with a pan-sensitive 
Klebsiella growing in her urine.  She was treated with 
Ceftriaxone and transitioned to ciprofloxacin while in house.  
Case was discussed with ID and they recommended a 2 week regimen 
for transient bacteremia.   Given her prior history of severe 
clostridium difficile infection and intermittent loose stools 
during this admission, we decided to empirically treat her with 
PO vancomycin over 4 weeks (with a 2 week overlap period 
following discontinuation of ciprofloxacin) despite a negative C 
diff toxin.  During her hospital course, she improved 
significantly with antibiotics and remained afebrile.  The loose 
stools were improving by the time of discharge.  She was 
scheduled with her primary care doctor for follow up.
.
2. CAD: Continued on amiodarone, ASA, and imdur during 
admission.

3. Atrial Fibrillation: INR subtherapeutic during admission. Her 
coumadin was dose-adjusted down to 3 mg daily given quinolone 
use, and she was discharged on 3 mg daily with plan for INR to 
be drawn a few days post discharge.

4. HTN: continued Imdur per home dosing in addition to home 
lasix.  

5. GERD: PPI

Prophylaxis: Patient received heparin products during admission.
Code: Confirmed full
 
Medications on Admission:
T3 prn
Alendronate weekly
Amiodarone 200 mg QOD
Betamethasone crm daily
Digoxin 125 mcg daily
Lasix 20 mg daily
Isosorbide mononitrate SR 15 mg daily
Omeprazole 20 mg daily
Coumadin 4 mg 5 days/week, 3 mg 2 days/week
ASA 81 mg daily
Calcium 1000 mg daily
Colace
MVI
Metamucil
 
Discharge Medications:
1. amiodarone 200 mg Tablet Sig: One (1) Tablet PO QOD ().  
2. isosorbide mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: 0.5 Tablet Sustained Release 24 hr PO DAILY (Daily).  
3. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO TID (3 times a day).  
7. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. Cipro 500 mg Tablet Sig: One (1) Tablet PO twice a day: 
Continue until ___ .
Disp:*26 Tablet(s)* Refills:*0*
10. vancomycin 250 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours): Continue until ___.
Disp:*108 Capsule(s)* Refills:*0*
11. warfarin 1 mg Tablet Sig: Three (3) Tablet PO Once Daily at 
4 ___.
Disp:*30 Tablet(s)* Refills:*2*
12. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week. 
 
14. digoxin 125 mcg Tablet Sig: One (1) Tablet PO once a day.  
15. Colace 50 mg Capsule Sig: One (1) Capsule PO once a day.  
16. Metamucil     Powder Sig: One (1)  PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
1. Sepsis
2. Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted because you were having shaking chills. You 
were found to have bacteremia, or bacteria in your blood, that 
probably came from a urinary tract infection. This was treated 
with antibiotics, which you will need to continue as an 
outpatient.  The medicine we are using to treat these bacteria 
is called ciprofloxacin.

We also started treatment for your diarrhea, which we want to 
make sure isn't Clostridium difficile.  The test for Clostridium 
difficile was negative, however we want to continue to treat you 
with vancomycin to prevent this infection from occuring.  You 
will need to continue vancomycin up until 2 weeks after you stop 
ciprofloxacin.  The dosages are listed below.
.
We made the following medication changes:
(1) Started ciprofloxacin 500 mg twice a day for treating the 
bacteria in your blood and urine.  You will need to take this 
until ___.
(2) Started vancomycin 250 mg four times a day.  You will need 
to take this until ___.  
(3) Decreased your coumadin (warfarin) dose to 3 mg daily.  You 
will need to get your INR checked at the end of the week 
(___) to make sure it is between 2 and 3.  

 
Followup Instructions:
___